US08003649B2
Preparation of 1-[2-[4-[4-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazin-1-yl]phenoxy]ethyl]-1H-pyrazole-4-carbonitrile
Obtained in 75% yield by an analogous method to Example 847, starting from 6-[4-[4-(2-bromoethoxy)phenyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine and 4-cyanopyrazole.

reactant | 6-[4-[4-(2-bromoethoxy)phenyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | BrCCOC1=CC=C(C=C1)N1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C18H18BrF3N6O
reactant | 4-cyanopyrazole | C(#N)C=1C=NNC1 | C4H3N3
product | 1-[2-[4-[4-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazin-1-yl]phenoxy]ethyl]-1H-pyrazole-4-carbonitrile | 75% yield | FC(C1=NN=C2N1N=C(C=C2)N2CCN(CC2)C2=CC=C(OCCN1N=CC(=C1)C#N)C=C2)(F)F | C22H20F3N9O
